* c:\users\mistr\esim-workspace\demux\demux.cir

* u5  net-_u4-pad2_ net-_u3-pad4_ net-_u5-pad3_ d_and
* u6  net-_u3-pad3_ net-_u3-pad4_ net-_u6-pad3_ d_and
* u4  net-_u3-pad3_ net-_u4-pad2_ d_inverter
* u3  sin d net-_u3-pad3_ net-_u3-pad4_ adc_bridge_2
* u7  net-_u5-pad3_ net-_u6-pad3_ y0 y1 dac_bridge_2
v1 sin gnd  dc 0
v2 d gnd  dc 5
r1  y0 gnd 100
r2  y1 gnd 100
* u1  sin plot_v1
* u2  d plot_v1
* u9  y0 plot_v1
* u8  y1 plot_v1
a1 [net-_u4-pad2_ net-_u3-pad4_ ] net-_u5-pad3_ u5
a2 [net-_u3-pad3_ net-_u3-pad4_ ] net-_u6-pad3_ u6
a3 net-_u3-pad3_ net-_u4-pad2_ u4
a4 [sin d ] [net-_u3-pad3_ net-_u3-pad4_ ] u3
a5 [net-_u5-pad3_ net-_u6-pad3_ ] [y0 y1 ] u7
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u5 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u6 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_2, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_2, NgSpice Name: dac_bridge
.model u7 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 2e-00 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(sin)
plot v(d)
plot v(y0)
plot v(y1)
.endc
.end
