* c:\users\mistr\esim-workspace\mux\mux.cir

* u6  net-_u4-pad4_ net-_u5-pad2_ net-_u6-pad3_ d_and
* u7  net-_u4-pad5_ net-_u4-pad6_ net-_u7-pad3_ d_and
* u8  net-_u6-pad3_ net-_u7-pad3_ net-_u8-pad3_ d_or
* u5  net-_u4-pad6_ net-_u5-pad2_ d_inverter
* u9  net-_u8-pad3_ y dac_bridge_1
v1 d0 gnd  dc 5
v2 d1 gnd  dc 0
r1  d0 net-_r1-pad2_ 1k
r2  d1 net-_r2-pad2_ 1k
r4  y gnd 1k
* u4  net-_r1-pad2_ net-_r2-pad2_ net-_r3-pad2_ net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ adc_bridge_3
v3 sin gnd  dc 5
r3  sin net-_r3-pad2_ 1k
* u1  d0 plot_v1
* u2  ? plot_v1
* u3  sin plot_v1
* u10  y plot_v1
a1 [net-_u4-pad4_ net-_u5-pad2_ ] net-_u6-pad3_ u6
a2 [net-_u4-pad5_ net-_u4-pad6_ ] net-_u7-pad3_ u7
a3 [net-_u6-pad3_ net-_u7-pad3_ ] net-_u8-pad3_ u8
a4 net-_u4-pad6_ net-_u5-pad2_ u5
a5 [net-_u8-pad3_ ] [y ] u9
a6 [net-_r1-pad2_ net-_r2-pad2_ net-_r3-pad2_ ] [net-_u4-pad4_ net-_u4-pad5_ net-_u4-pad6_ ] u4
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u6 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, NgSpice Name: d_and
.model u7 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_or, NgSpice Name: d_or
.model u8 d_or(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, NgSpice Name: d_inverter
.model u5 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, NgSpice Name: dac_bridge
.model u9 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_3, NgSpice Name: adc_bridge
.model u4 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 2e-00 20e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(d0)
plot v(?)
plot v(sin)
plot v(y)
.endc
.end
